US06150351
To a solution of ethyl 2-mercapto-4-methyl-5-thiazole acetate (217 mg) in tetrahydrofuran (5.0 ml) was added lithium aluminum hydride (38 mg) at ice-cooling. After stirring at 60° C. for 2 hours, the mixture was poured into a mixture of tetrahydrofuran and water, and adjusted to pH 3.0 with 1N-hydrochloric acid. The separated organic layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate and evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel (eluent: hexane/ethyl acetate=2/3) to give 5-(2-hydroxyethyl)-2-mercapto-4-methylthiazole (89 mg).

reactant | ethyl 2-mercapto-4-methyl-5-thiazole acetate | 217 mg | SC=1SC(=C(N1)C)CC(=O)OCC | C8H11NO2S2
reactant | lithium aluminum hydride | 38 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | 5-(2-hydroxyethyl)-2-mercapto-4-methylthiazole | 89 mg | OCCC1=C(N=C(S1)S)C | C6H9NOS2
